US05114466
Synthesis for N-benzyl-N-(2-heptenyl)amine
13 g of potassium carbonate and 20 g of benzylamine were added to 25 ml of N,N-dimethylformamide and, further, 20 g of 2-hexenyl chloride was added and stirred at 100°-120° C. for one hour. After the reaction, 100 ml of an aqueous solution of sodium chloride was added, extracted with ethyl acetate and dried with anhydrous sodium sulfate. After concentration in an evaporator, it was subjected to silica gel column chromatography (hexane/ethyl acetate=1/1, v/v) to obtain 18 g of the aimed compound.

reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylamine | 20 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-hexenyl chloride | 20 g | C(C=CCCC)Cl | C6H11Cl
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-benzyl-N-(2-heptenyl)amine | 18 g | C(C1=CC=CC=C1)NCC=CCCCC | C14H21N
